US04920120
Ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate
A solution of 7.2 g (22 mmol) of ethyl 2-(2,4,5-trifluoro-5-methylbenzoyl)-3-cyclopropylaminoacrylate in 100 ml of dry t-butanol was treated portionwise with 2.8 g (25 mmol) of potassium t-butoxide, and the reaction mixture was stirred at 60° C. for five hours. The suspension was cooled to room temperature and concentrated. The residue was partitioned between dichloromethane and 1N hydrochloric acid; the organic phase was washed with water, dried over magnesium sulfate, and concentrated. The crude product was slurried in boiling ethanol, filtered, and air-dried to give 4.2 g of the title compound.

reactant | ethyl 2-(2,4,5-trifluoro-5-methylbenzoyl)-3-cyclopropylaminoacrylate | 22 mmol, 7.2 g | FC=1C(C(=O)C(C(=O)OCC)=CNC2CC2)=CC(C(C1)F)(C)F | C16H18F3NO3
reactant | potassium t-butoxide | 25 mmol, 2.8 g | CC(C)([O-])C.[K+]
solvent | t-butanol | 100 ml | C(C)(C)(C)O | C4H10O
product | Ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 4.2 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C15H13F2NO3
